US08293744B2
Step 10: Preparation of 2-(2,3-dimethylphenyl)-5-{[6-(1-methyl-1H-pyrazol-4-yl)pyridin-3-yl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]pyrido[3,2-e]pyridazin-3-one:
5-{[6-(1-Methyl-1H-pyrazol-4-yl)pyridin-3-yl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]pyrido[3,2-e]pyridazin-3-one (50 mg, 0.14 mmol), copper(I) iodide (27 mg, 0.14 mmol, 1 equiv), potassium phosphate (0.18 g, 0.84 mmol, 6 equiv), (±)-trans-N,N′-bismethyl-1,2-cyclohexanediamine (59 mg, 0.42 mmol, 3 equiv) and 3-iodo-ortho-xylene (59 μL, 0.42 mmol, 3 equiv) were combined in degassed N,N-dimethylformamide (2.5 mL) and placed into an oil bath preheated to 110° C. for 30 minutes. The mixture was cooled to ambient temperature, poured into sodium bicarbonate (25 mL, aqueous saturated) and extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 0:100; hexanes:ethyl acetate containing 10% methanol), providing the titled compound: 1H-NMR (400 MHz, CDCl3) δ 8.83 (1H, d, J=2.2 Hz), 8.78 (1H, dd, J=4.6, 1.7 Hz), 8.54 (1H, dd, J=8.0, 1.9 Hz), 7.92 (1H, dd, J=7.9, 2.2 Hz), 7.91 (1H, s), 7.89 (1H, s), 7.51 (1H, dd, J=8.0, 4.6 Hz), 7.41 (1H, d, J=8.3 Hz), 7.26 (1H, br s), 7.23-7.21 (2H, m), 5.96 (2H, s), 3.94 (3H, s), 2.36 (3H, s), 2.16 (3H, s) ppm; high resolution mass spectrometry (ES+) m/z 463.1986 [(M+H)+; calculated for C26H23N8O: 463.1989].

reactant | 5-{[6-(1-Methyl-1H-pyrazol-4-yl)pyridin-3-yl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]pyrido[3,2-e]pyridazin-3-one | 0.14 mmol, 50 mg | CN1N=CC(=C1)C1=CC=C(C=N1)CN1N=C2C(C3=C1N=CC=C3)=NNC2=O | C18H14N8O
reactant | potassium phosphate | 0.84 mmol, 0.18 g, 6 equiv | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (±)-trans-N,N′-bismethyl-1,2-cyclohexanediamine | 0.42 mmol, 59 mg, 3 equiv | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | 3-iodo-ortho-xylene | 0.42 mmol, 59 μL, 3 equiv | IC1=C(C(=CC=C1)C)C | C8H9I
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 0.14 mmol, 27 mg, 1 equiv | [Cu]I
product | 2-(2,3-dimethylphenyl)-5-{[6-(1-methyl-1H-pyrazol-4-yl)pyridin-3-yl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]pyrido[3,2-e]pyridazin-3-one | CC1=C(C=CC=C1C)N1N=C2C(=NN(C3=C2C=CC=N3)CC=3C=NC(=CC3)C=3C=NN(C3)C)C1=O | C26H22N8O
